US08404436B1
(vi) 3-(2-Carboxyethyl)-6-bromo-1H-indole-2-carboxylic acid
Ethyl 6-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate (3.68 g, 10 mmol) was dissolved in 25 ml tetrahydrofurane (THF) with stirring at rt. Then a solution of 1.26 g of lithium hydroxide trihydrate (3 equiv.) in 25 ml water was added and the resulting mixture was let to stir at rt for 24 h. After completion of the reaction THF was removed under reduced pressure and the pH was adjusted to 4-5, and the product was extracted with diethyl ether (3×30 ml). The organic layers were dried over magnesium sulfate, filtered, and evaporated to dryness to yield a light-beige-colored solid in 95-100% yield. mp. 234-235° C. 1H-NMR (DMSO-d6) δ 2.50 (m, 2H, 2′-H); 3.23 (m, 2H, 1′-H); 7.16 (dd, 1H, J=1.8 Hz, 5-H); 7.54 (dd, 1H, J=1.8 Hz, 7-H); 7.64 (dd, 1H, J=8.5 Hz, 4-H); 11.57 (s, 1H, NH); 12.54 (b, 1H, 2CO2H). 13C-NMR (DMSO-d6) δ 19.9 (C-2′); 35.2 (C-1′); 114.9 (C-7); 117.6 (C-4); 121.6 (C-3); 122.5 (C-6, C-5); 125.0 (C-2); 126.2 (C-3a); 136.8 (C-7a); 163.0 (2′-CO2H); 174.0 (2-CO2H). LC-MS (m/z): 329 [M-NH4+]+, 312 [M]+, 312 [M]−. Purity (LC-MS): 99%.

reactant | Ethyl 6-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | 10 mmol, 3.68 g | BrC1=CC=C2C(=C(NC2=C1)C(=O)OCC)CCC(=O)OCC | C16H18BrNO4
reactant | lithium hydroxide trihydrate | 1.26 g, 3 equiv. | O.O.O.[OH-].[Li+]
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 3-(2-Carboxyethyl)-6-bromo-1H-indole-2-carboxylic acid | 95-100% yield | C(=O)(O)CCC1=C(NC2=CC(=CC=C12)Br)C(=O)O | C12H10BrNO4
